US08895571B2
Step A: ethyl 2-(4-chloro-1-methyl-1H-pyrazol-5-yl)-4-methylpyrimidine-5-carboxylate
A mixture of 4-chloro-1-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (1.45 g, 5.98 mmol), ethyl 2-chloro-4-methylpyrimidine-5-carboxylate (0.999 g, 4.98 mmol), bis(tri-t-butylphosphine)palladium (509 mg, 0.996 mmol), and N,N-diisopropylethylamine (1.74 mL, 9.98 mmol) in 1,4-dioxane (10 mL) and water (0.5 mL) was stirred at 110° C. for 40 mins under microwave. Direct purification by combi-flash chromatography afforded 0.83 g (59% yield) of the desired product. LC-MS found: 281.1 (M+H)+.

reactant | 4-chloro-1-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 5.98 mmol, 1.45 g | ClC=1C=NN(C1B1OC(C(O1)(C)C)(C)C)C | C10H16BClN2O2
reactant | ethyl 2-chloro-4-methylpyrimidine-5-carboxylate | 4.98 mmol, 0.999 g | ClC1=NC=C(C(=N1)C)C(=O)OCC | C8H9ClN2O2
reactant | N,N-diisopropylethylamine | 9.98 mmol, 1.74 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | water | 0.5 mL | O | H2O
catalyst | bis(tri-t-butylphosphine)palladium | 0.996 mmol, 509 mg | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
product | ethyl 2-(4-chloro-1-methyl-1H-pyrazol-5-yl)-4-methylpyrimidine-5-carboxylate | 0.83 g, 59% yield | ClC=1C=NN(C1C1=NC=C(C(=N1)C)C(=O)OCC)C | C12H13ClN4O2
